### PR TITLE
chore: adaptations for nightly-2025-05-13

### PR DESCRIPTION
**Pull request by ghost**

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean [hunk 1]
```diff
@@ -411,11 +409,15 @@ lemma factor_δ_spec {m n : ℕ} (f : ⦋m⦌ ⟶ ⦋n+1⦌) (j : Fin (n+2))
   dsimp [factor_δ, δ, σ]
   cases j using cases with
   | zero =>
-    rw [predAbove_of_le_castSucc _ _ (zero_le _), castPred_zero, predAbove_of_castSucc_lt 0 _
-    (castSucc_zero ▸ pos_of_ne_zero hj),
-    zero_succAbove, succ_pred]
+    ext
+    unfold predAbove
+    simp only [castSucc_zero, lt_self_iff_false, ↓reduceDIte]
```
Comment (kbuzzard) [inline Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean:414]: Can the unfold be done by `simp`? Sorry for not checking myself, I have ropey internet right now.

**Review by kbuzzard — APPROVED** [review]
A (perhaps expected) consequence of the change to some lemmas applying to `Fin n` with `[NeZero n]` instead of to `Fin (n + 1)` is that now we sometimes have to supply the `n` explicitly but this seems fine to me.

File: Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean (hunk 1 above)
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean:414]:
```suggestion
    simp only [predAbove, castSucc_zero, lt_self_iff_false, ↓reduceDIte]
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
